Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
difficulty speaking x 3 days
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ woman with cocaine use and anxiety 
who presents with right sided weakness and word finding 
difficulties. She is a poor historian, and husband does not live 
with her so does not know specifics. Unable to get ahold of 
daughter, who does live with her. 

Three days ago, she felt like her right side was not working 
correctly. It was hard for her to make sentences, and she was 
unable to say what she wanted to say. She could not say how long 
this lasted for, but did say it came and went over the last 
three days. Today, she went to work at ___ when symptoms 
again started. She went to the bathroom to see if it would pass, 
but it would not. She was also shaking and trembling. Brought to 
ED, perseverates on shaking and speech difficulties. 

Spoke to husband on the phone, who relayed that pt was very 
upset yesterday. Her granddaughter was reportedly choked by the 
school security officer. She went to the school to talk to them, 
but she became so angry that she was unable to get her words 
out. Since then, she has been shaky per granddaughter. 

Of note, pt is a daily cocaine user but stopped 3 days ago. 

 
Past Medical History:
PMH/PSH: anxiety, psych, mitral valve regurg
 
Social History:
- tobacco: yes
- EtOH: denies
- illicits: cocaine, usually daily, last use 3 days ago
- MJ: denies

- Modified Rankin Scale:
 [X] 0: No symptoms
 [] 1: No significant disability - able to carry out all usual 
activities despite some symptoms
 [] 2: Slight disability: able to look after own affairs without 
assistance but unable to carry out all previous activities
 [] 3: Moderate disability: requires some help but able to walk 
unassisted
 [] 4: Moderately severe disability: unable to attend to own 
bodily needs without assistance and unable to walk unassisted
 [] 5: Severe disability: requires constant nursing care and 
attention, bedridden, incontinent
 [] 6: Dead
 
Family History:
unknown
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals:  T: 97.8F  HR: 87  BP: 135/62  RR: 26  SaO2: 100% RA
General: very shaky, tremulous, anxious
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: tachycardic
Pulmonary: tachypneic
Abdomen: Soft, NT, ND
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Unable to relate history, having trouble 
finding words and stuttering. Is eventually able to talk in 
halting but complete sentences using more complicated words. 
Unable to name low frequency objects. Intact verbal 
comprehension. Mild dysarthria in setting of shaking. No 
evidence of hemineglect. No left-right confusion. Able to follow 
both midline and appendicular commands.

- Cranial Nerves: PERRL 3->2 brisk. VF full to number counting. 
EOMI, no nystagmus. Decreased sensation to left face in V1-V3 
distribution. L NLFF. Hearing intact to finger rub bilaterally.  
Palate elevation symmetric. SCM/Trapezius strength ___ 
bilaterally. Tongue midline.

- Motor: Normal bulk and tone. Drift in RUE in setting of 
intense shaking. Low amplitude high frequency shaking of all 
extremities and head, RUE>LUE. Give away weakness. 

   [___]
 L   5     5    5    5    ___    5    5-*  5    5    5
 R   5     5    5    4+   4+  5-  5    5    5-*  5    5    5  
  
 - Reflexes: 
    [Bic] [Tri] [___] [Quad] [Gastroc]
  L  3+    2+     3+      3+       2
  R  3+    2+     3+      3+       2  

- Sensory: decreased sensation to light touch in RUE and RLE

- Coordination: No dysmetria with finger to nose testing 
bilaterally. Good speed and intact cadence with rapid 
alternating movements.

- Gait: deferred
 
Pertinent Results:
___ 05:00AM BLOOD WBC-8.9 RBC-4.12 Hgb-11.8 Hct-36.7 MCV-89 
MCH-28.6 MCHC-32.2 RDW-13.4 RDWSD-44.0 Plt ___
___ 06:03PM BLOOD Neuts-53.8 ___ Monos-8.2 Eos-6.3 
Baso-0.7 Im ___ AbsNeut-5.17 AbsLymp-2.97 AbsMono-0.79 
AbsEos-0.61* AbsBaso-0.07
___ 05:00AM BLOOD Glucose-88 UreaN-12 Creat-1.0 Na-140 
K-3.6 Cl-105 HCO3-23 AnGap-16
___ 05:00AM BLOOD ALT-11 AST-18 LD(LDH)-244 AlkPhos-93 
TotBili-0.6
___ 05:00AM BLOOD TotProt-6.6 Albumin-4.0 Globuln-2.6 
Cholest-191
___ 06:03PM BLOOD %HbA1c-5.8 eAG-120
___ 05:00AM BLOOD Triglyc-63 HDL-39 CHOL/HD-4.9 
LDLcalc-139*
___ 06:03PM BLOOD TSH-2.0
___ 10:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-POS* amphetm-NEG oxycodn-NEG mthdone-NEG

Imaging:
MRI Brain ___
Late acute infarcts involving the left basal ganglia and left 
temporal and 
parietal lobes with a punctate focus also seen in the left 
frontal lobe are 
consistent with embolic phenomena in the left MCA distribution.  
No 
hemorrhage. 

CT angiogram ___
1. Acute left MCA territory infarcts with the largest focus 
involving the left basal ganglia as described above are better 
appreciated on the subsequent MRI. 
No hemorrhage. 
2. Tapering and moderate short segment narrowing of the mid M1 
segment of the left middle cerebral artery with preserved flow 
more distally.  The circle of ___ is otherwise unremarkable. 
3. Unremarkable neck CTA aside from mild atherosclerotic plaque 
at the right carotid bifurcation.  No internal carotid artery 
stenosis by NASCET criteria. 
4. 4 mm pulmonary nodule along the periphery of the left upper 
lobe. 
  
RECOMMENDATION(S): 
For incidentally detected single solid pulmonary nodule smaller 
than 6 mm, no CT follow-up is recommended in a low-risk patient, 
and an optional CT in 12 months is recommend in a high-risk 
patient. 

Echocardiogram ___
The left atrium and right atrium are normal in cavity size. With 
maneuvers, there is early appearance of agitated 
saline/microbubbles in the left atrium/left ventricle most 
consistent with a patent foramen ovale. Additionally, late 
saline contrast is seen in left heart suggesting intrapulmonary 
shunting. Normal left ventricular wall thickness, cavity size, 
and regional/global systolic function (biplane LVEF = 57 %). The 
estimated cardiac index is normal (>=2.5L/min/m2). Doppler 
parameters are indeterminate for left ventricular diastolic 
function. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. No masses or vegetations are seen on the 
aortic valve. The mitral valve leaflets are structurally normal. 
There is no mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. Mild (1+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. No 
vegetation/mass is seen on the pulmonic valve. There is no 
pericardial effusion. 

IMPRESSION: Patent foramen ovale suggested. No echocardiographic 
evidence of endocarditis. Normal biventricular cavity sizes with 
preserved global and regional biventricular systolic function. 
Mild mitral and tricuspid regurgitation.  

___ Dopplers ___ negative for DVT
MRV Pelvis ___
Left adnexal mass measuring 22 x 29 x 21 mm is suggestive of a 
dermoid, but is incompletely evaluated on this MRV study. 
Correlation with pelvic ultrasound advised. 

 
Brief Hospital Course:
Ms. ___ was admitted to the neurology service where she was 
monitored on telemetry and had normal sinus rhythm. Her deficits 
improved slowly over the course of the hospitalization. She was 
started on aspirin immediately, and once LDL resulted at 135 she 
was started on atorvastatin 80 mg QPM. MRI confirmed scattered 
infarcts, the largest of which was in the left frontal lobe. 
Echo was significant for a PFO. ___ dopplers were negative. MRV 
negative for thrombus but did show an adnexal mass which should 
be followed up as an outpatient. Blood cultures were sent to 
evaluate for endocarditis and these had no growth at time of 
discharge. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 135) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
 ]
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ]  Statin medication allergy 
[ ]  Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ]  LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
 
Medications on Admission:
none
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.Outpatient Speech/Swallowing Therapy
Evaluate and treat. Ischemic stroke 434.11
4.Outpatient Physical Therapy
Evaluate and treat 434.11 ischemic strokes

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke in the left MCA due to cocaine use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of right sided weakness 
and trouble speaking resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high cholesterol
narrowing of the blood vessels in the brain
PFO (patent foramen ovale- a connection between two chambers in 
the heart)
We are changing your medications as follows:
Aspirin 81 mg daily
Atorvastatin 80 mg daily
Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below. You will need to call to schedule this 
appointment once you have active insurance. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___